US08937078B2
Step B: Preparation of 1-[3-(2-methoxy-ethoxymethyl)-4-oxo-3,4,6,7,8,9-hexahydro-benzo[g]quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
DIEA (0.76 mL, 4.4 mmol) was added to a 2:1 mixture of 1-(4-oxo-3,4,6,7,8,9-hexahydro-benzo[g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester and 1-(1-oxo-1,2,7,8,9,10-hexahydro-benzo[f]quinazolin-3-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.500 g, 1.478 mmol) in THF (7.4 mL), followed by 1-chloromethoxy-2-methoxy-ethane (0.186 mL, 1.63 mmol). The reaction mixture was stirred at room temperature for 18 h, diluted with EtOAc (40 mL), and washed with water (30 mL). The aqueous layer was extracted with EtOAc (2×30 mL) and the combined organic layers were washed with brine (40 mL), dried (MgSO4), and concentrated. The residue was purified by FCC (5-60% EtOAc/hexanes) to yield the titled compound (0.257 g, 41% yield) and 1-[2-(2-methoxy-ethoxymethyl)-1-oxo-1,2,7,8,9,10-hexahydro-benzo[t]quinazolin-3-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (69.0 mg, 11% yield).

reactant | DIEA | 4.4 mmol, 0.76 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(4-oxo-3,4,6,7,8,9-hexahydro-benzo[g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC3=C(C=C2C(N1)=O)CCCC3 | C18H18N4O3
reactant | 1-(1-oxo-1,2,7,8,9,10-hexahydro-benzo[f]quinazolin-3-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.478 mmol, 0.500 g | C(C)OC(=O)C=1C=NN(C1)C1=NC=2C=CC3=C(C2C(N1)=O)CCCC3 | C18H18N4O3
reactant | 1-chloromethoxy-2-methoxy-ethane | 1.63 mmol, 0.186 mL | ClCOCCOC | C4H9ClO2
solvent | THF | 7.4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 1-[3-(2-methoxy-ethoxymethyl)-4-oxo-3,4,6,7,8,9-hexahydro-benzo[g]quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.257 g, 41% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC3=C(C=C2C(N1COCCOC)=O)CCCC3 | C22H26N4O5
